US08211908B2
To 1.1 g of 1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one, 11 mL of a 90% aqueous trifluoroacetic acid solution was added, and the mixture was stirred at room temperature for 2 hours. Then, 1.1 mL of water was added thereto and the mixture was stirred for 13 hours, and thereto was further added 1.1 mL of water and the mixture was stirred for 3 hours 30 minutes, and stirred at 50 to 70° C. for 1 hour 30 minutes. The solvent was distilled off under reduced pressure, and to the resultant residue, a saturated aqueous sodium hydrogen carbonate solution, water and chloroform were added. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 0.75 g of (2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde as a yellow solid.

reactant | 1-(1,3-dioxolan-2-ylmethyl)-1,8-naphthyridin-2(1H)-one | 1.1 g | O1C(OCC1)CN1C(C=CC2=CC=CN=C12)=O | C12H12N2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 1.1 mL | O | H2O
solvent | water | 1.1 mL | O | H2O
product | (2-oxo-1,8-naphthyridin-1(2H)-yl)acetaldehyde | 0.75 g | O=C1N(C2=NC=CC=C2C=C1)CC=O | C10H8N2O2
